US09260427B2
Prepared using General Procedure 7. Into a solution of 5-(tert-butyl)thiophene-2-carboxylic acid (1.93 g, 10.0 mmol) in DMF (20 mL) were added HATU (4.56 g, 12.0 mmol) and TEA (4.18 mL, 30.0 mmol). The mixture was stirred at room temperature for 30 min and (S)-tert-butyl 2-amino-3-(4-hydroxyphenyl)propanoate (2.37 g, 10.0 mmol) was added. After 1 h, the reaction mixture was poured into 400 mL of ice-water and the solid was filtered. The solid was dissolved in DCM and EA, dried over MgSO4, concentrated, and purified by chromatography (EA/hexanes) to provide 3.6 g (89%) of tert-butyl (5-(tert-butyl)thiophene-2-carbonyl)-L-tyrosinate. LCMS-ESI (m/z) calculated for C22H29NO4S: 403.2. found: 426.1 [M+Na]+, tR=9.07 min (Method 2).

reactant | 5-(tert-butyl)thiophene-2-carboxylic acid | 10.0 mmol, 1.93 g | C(C)(C)(C)C1=CC=C(S1)C(=O)O | C9H12O2S
reactant | HATU | 12.0 mmol, 4.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-tert-butyl 2-amino-3-(4-hydroxyphenyl)propanoate | 10.0 mmol, 2.37 g | N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O | C13H19NO3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl (5-(tert-butyl)thiophene-2-carbonyl)-L-tyrosinate | 3.6 g, 89% | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C22H29NO4S
